US08076329B2
Following the procedure described in example 1§E, but starting from 4-hydroxyphenylacetonitrile (4.65 g), potassium carbonate (24 g) and 1-bromo-3-chloropropane (17.3 mL) in N,N-dimethylformamide (23 mL) affords 6.86 g of 4-(3-chloropropoxy)phenylacetonitrile as a yellow solid.

reactant | 4-hydroxyphenylacetonitrile | 4.65 g | OC1=CC=C(C=C1)CC#N | C8H7NO
reactant | potassium carbonate | 24 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 17.3 mL | BrCCCCl | C3H6BrCl
solvent | N,N-dimethylformamide | 23 mL | CN(C=O)C | C3H7NO
product | 4-(3-chloropropoxy)phenylacetonitrile | 6.86 g | ClCCCOC1=CC=C(C=C1)CC#N | C11H12ClNO
